US09388149B2
A mixture of 1.50 g (8.10 mmol; 1.0 eq) of 2-fluoro-3-nitrobenzoic acid and 16 ml of thionyl chloride was refluxed for 3 hours. The excess thionyl chloride was then concentrated and the residue was co-evaporated twice with toluene. The resulting acid chloride was taken up in 25 ml of dichloromethane. 1.27 g (8.10 mmol; 1.0 eq) of isopropyl (S)-pyrrolidine-2-carboxylate were added to this mixture cooled to 0° C. The reaction medium was stirred at 0° C. for 30 minutes and then at ambient temperature for 2 hours. The reaction medium was diluted and washed with a 1 M hydrochloric acid solution (100 ml) and then with a saturated sodium hydrogen carbonate solution (100 ml). The organic phase was dried over MgSO4, filtered and evaporated. 2.12 g of isopropyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate were obtained. Yield=81%.

reactant | 2-fluoro-3-nitrobenzoic acid | 8.10 mmol, 1.50 g, 1.0 eq | FC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | 16 ml | S(=O)(Cl)Cl | Cl2OS
reactant | isopropyl (S)-pyrrolidine-2-carboxylate | 8.10 mmol, 1.27 g, 1.0 eq | N1[C@@H](CCC1)C(=O)OC(C)C | C8H15NO2
product | isopropyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate | 2.12 g, Yield=81% | FC1=C(C(=O)N2[C@@H](CCC2)C(=O)OC(C)C)C=CC=C1[N+](=O)[O-] | C15H17FN2O5
